US07977352B2
A.5 (5-Chloro-[1,2,4]-triazolo[1,5-a]pyridin-8-yl)-(4-morpholin-4-yl-phenyl)-amine
A suspension of 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine (160 mg, 0.69 mmol), 4-morpholin-4-yl-phenylamine (135 mg, 0.76 mmol), sodium-tert-butoxide (93 mg, 0.96 mmol), tris(dibenzylideneacetone)dipalladium (0) (13 mg, 13.76 μmol) and Xantphos (16 mg, 27.52 μmol) in dry toluene is heated at 90° C. in a sealed tube under a nitrogen atmosphere for 16 hours. The reaction mixture is evaporated to dryness and the residue partitioned between dichloromethane and 10% aqueous citric acid. The organic phase is further washed with water (1×) and brine (1×), dried over magnesium sulfate, filtered and evaporated. The solid residue (207 mg) is purified by flash chromatography (silica gel, dichloromethane/methanol 97:3) affording the title compound (70 mg) as a solid.

reactant | 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.69 mmol, 160 mg | BrC=1C=2N(C(=CC1)Cl)N=CN2 | C6H3BrClN3
reactant | 4-morpholin-4-yl-phenylamine | 0.76 mmol, 135 mg | N1(CCOCC1)C1=CC=C(C=C1)N | C10H14N2O
reactant | sodium-tert-butoxide | 0.96 mmol, 93 mg | CC(C)([O-])C.[Na+]
reactant | Xantphos | 27.52 μmol, 16 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 13.76 μmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5-Chloro-[1,2,4]-triazolo[1,5-a]pyridin-8-yl)-(4-morpholin-4-yl-phenyl)-amine | 70 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCOCC2 | C16H16ClN5O
